US06187953B1
46.00 g (0.21 mol) of 3-iodoaniline were admixed with 100 ml of 15% strength hydrochloric acid. The 3-iodoanilinium hydrochloride formed was filtered off with suction, recrystallized from water and dried under reduced pressure (yield: 52.57 g=98%). The total amount of the anilinium salt was mixed with 14.42 g (0.205 mol) of dimethylcyanamide and heated at 130° C. for 10 minutes on an oil bath. After the reaction had abated, the reaction mixture was cooled, admixed with 100 ml of water and the water-soluble constituents were filtered off. The aqueous solution was extracted twice with 100 ml each time of diethyl ether, adjusted to a pH of 10-12 using KOH and subsequently extracted three times with 100 ml of dichloromethane. The CH2Cl2 extracts were dried over magnesium sulfate and the solvent was then taken off under reduced pressure. This left 48.2 g of N′-(3-iodophenyl)-N,N-dimethylguanidine as a colorless solid (yield: 81%).

reactant | 3-iodoaniline | 0.21 mol, 46.00 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | hydrochloric acid | Cl | ClH
product | 3-iodoanilinium hydrochloride | Cl.IC=1C=C([NH3+])C=CC1 | InChI=1S/C6H6IN.ClH/c7-5-2-1-3-6(8)4-5;/h1-4H,8H2;1H/p+1
